US06884801B1
{2-amino-5-bromophenyl}(1-pyrrolidinyl)methanone (prepared from pyrrolidine and 6-bromo-2H-3,1-benzoxazine-2,4(1H)-dione using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give {5-bromo-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]phenyl}(1-pyrrolidinyl)methanone.

reactant | {2-amino-5-bromophenyl}(1-pyrrolidinyl)methanone | NC1=C(C=C(C=C1)Br)C(=O)N1CCCC1 | C11H13BrN2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 6-bromo-2H-3,1-benzoxazine-2,4(1H)-dione | BrC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H4BrNO3
product | {5-bromo-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]phenyl}(1-pyrrolidinyl)methanone | BrC=1C=CC(=C(C1)C(=O)N1CCCC1)NCC=1NCCN1 | C15H19BrN4O
